US08357688B2
A mixture of 3.98 g of methyl 4,5-diamino-2-methylbenzoate and 40 mL of diethyl oxalate was stirred at 145° C. for 3 hours. After cooling to room temperature, the solid was collected by filtration, washed with diethyl ether, and dried under reduced pressure to obtain 4.75 g of methyl 7-methyl-2,3-dioxo-1,2,3,4-tetrahydroquinoxaline-6-carboxylate.

reactant | methyl 4,5-diamino-2-methylbenzoate | 3.98 g | NC1=CC(=C(C(=O)OC)C=C1N)C | C9H12N2O2
reactant | diethyl oxalate | 40 mL | C(C(=O)OCC)(=O)OCC | C6H10O4
product | methyl 7-methyl-2,3-dioxo-1,2,3,4-tetrahydroquinoxaline-6-carboxylate | 4.75 g | CC1=C(C=C2NC(C(NC2=C1)=O)=O)C(=O)OC | C11H10N2O4
